US07259160B2
Step B: (3R,6S)-4-[(3R)-3-Amino-4-(2,4,5-trifluorophenyl)butanoyl]hexahydro-3,6-dimethyl-2H-1,4-diazepin-2-one hydrochloride
(3R,6S)-4-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]hexahydro-3,6dimethyl-2H-1,4-diazepin-2-one (135 mg, 0.3 mmol) was treated with 4N hydrogen chloride in dioxane (2 mL) at room temperature for 2 hr. The solvent was removed under a stream of nitrogen, and the crude product was purified on preparative TLC plates (silica, 10% 2N ammonia/methanol in dichloromethane) to yield the title compound as white solid. MS (M+1): 358.2.

reactant | (3R,6S)-4-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]hexahydro-3,6dimethyl-2H-1,4-diazepin-2-one | 0.3 mmol, 135 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)N1[C@@H](C(NC[C@@H](C1)C)=O)C)CC1=C(C=C(C(=C1)F)F)F | C22H30F3N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (3R,6S)-4-[(3R)-3-Amino-4-(2,4,5-trifluorophenyl)butanoyl]hexahydro-3,6-dimethyl-2H-1,4-diazepin-2-one hydrochloride | Cl.N[C@@H](CC(=O)N1[C@@H](C(NC[C@@H](C1)C)=O)C)CC1=C(C=C(C(=C1)F)F)F | InChI=1S/C17H22F3N3O2.ClH/c1-9-7-22-17(25)10(2)23(8-9)16(24)5-12(21)3-11-4-14(19)15(20)6-13(11)18;/h4,6,9-10,12H,3,5,7-8,21H2,1-2H3,(H,22,25);1H/t9-,10+,12+;/m0./s1
